Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Trauma: Fall:

back, head, arm pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female presents to ED with ___ as a transfer from 
___. The patient tripped and fell while walking home
with groceries at 1600 today. She hit her head and left knee
and hands and is uncertain if she lost consciousness. She
denies neck pain or numbness/weakness. She was seen at ___
where imaging were concerning for ___. They also found a
left patella fracture and maxillary sinus fracture and
repaired a right eyebrow laceration. She was transferred
here for neuro consult. She is not on any blood thinners.

 
Past Medical History:
HTN, depression, hypothyroid, GERD 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION: upon admission:  ___
 
Temp: 98.1 HR: 71 BP: 127/61 Resp: 18 O(2)Sat: 98 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Neck is supple, , Oropharynx within normal limits, no septal
hematoma
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: right lateral orbital wall tenderness, tender
over left hand. Left patellar swelling and tenderness
throughout joint. No chest wall tenderness. No spinal
tenderness.
Skin: T-shaped 5cm laceration over right periorbital
ecchymosis with sutures in place, abrasion on right volar
aspect of hand. Old spinal surgery scar.
Neuro: Speech fluent, CN II-XII intact
Psych: Normal mentation
___: No petechiae

Physical examination upon discharge:  ___:

vital signs:  t=98.7, hr=74, bp=114/58, rr=16, 98% room air

GENERAL: NAD

CV:  ns1, s2, no murmurs
LUNGS: clear
ABDOMEN:  soft, non-tender
EXT: mild tenderness, swelling, left patella, + dp bil
Neuro:  alert and oriented x 3, speech clear
SKIN:  hematoma right brow, sutures lateral aspect of brow, 
ecchymosis right side of face
 

 
Pertinent Results:
___ 05:25AM BLOOD WBC-4.3 RBC-3.88* Hgb-10.6* Hct-33.2* 
MCV-86 MCH-27.3 MCHC-31.9* RDW-14.0 RDWSD-43.6 Plt ___
___ 03:27AM BLOOD WBC-5.8 RBC-4.26 Hgb-11.9 Hct-36.8 MCV-86 
MCH-27.9 MCHC-32.3 RDW-13.8 RDWSD-42.9 Plt ___
___ 03:27AM BLOOD Neuts-69.1 ___ Monos-6.8 Eos-2.1 
Baso-0.3 Im ___ AbsNeut-3.98 AbsLymp-1.23 AbsMono-0.39 
AbsEos-0.12 AbsBaso-0.02
___ 05:25AM BLOOD Plt ___
___ 03:27AM BLOOD ___ PTT-55.7* ___
___ 05:25AM BLOOD Glucose-100 UreaN-14 Creat-0.8 Na-140 
K-3.3 Cl-102 HCO3-34* AnGap-7*
___ 03:27AM BLOOD Glucose-108* UreaN-17 Creat-0.9 Na-140 
K-3.3 Cl-99 HCO3-35* AnGap-9
___ 05:25AM BLOOD Calcium-8.9 Phos-2.8 Mg-2.3

___:  ct of c-spine:

1.  No evidence of cervical spine fracture. 
  
2.  Multi-level degenerative changes most prominent at C5-C6 
with probable 
moderate narrowing of the left neural foramina.  No critical 
spinal canal 
stenosis. 
  
3.  Mild right maxillary sinus mucosal thickening. 
  
COMMENTS ON ATTENDING REVIEW: 
  
1. There is a triangular ossification in the anterior C6-C7 disc 
space 
adjacent to the inferior endplate of C6, with an apparent donor 
site in the inferior endplate of C6.  This is compatible with an 
osteophyte fracture of unknown chronicity.  There is no 
associated prevertebral soft tissue swelling. 
The C6-C7 disc space is narrowed posteriorly, but not narrowed 
anteriorly ; injury to the disc cannot be excluded.  There is no 
distraction of the posterior elements. 
2. Disc protrusions and endplate osteophytes indent the ventral 
thecal sac at multiple levels, with mild to moderate spinal 
canal narrowing and likely mild remodeling of the ventral spinal 
cord at several levels.  There is multilevel neural foraminal 
narrowing by uncovertebral and facet osteophytes. 
  
RECOMMENDATION(S):  If the patient has lower cervical pain, then 
cervical 
spine MRI should be considered to assess for acute ligamentous 
and/ or 
intervertebral disc injury at C6-C7.  If there is no lower 
cervical pain, the C6 anterior inferior osteophyte fracture may 
be presumed chronic. 

___:  left wrist x-ray:

___ CMC severe degenerative change. No evidence of fracture.

___:  cat scan of the head:

 
1. Chronic appearing small frontal subdural hematomas greater on 
the right 
than the left . 
2. Non-displaced fracture of the lateral wall of the right 
maxillary sinus with associated minimal hemorrhage within the 
sinus and gas within the adjacent soft tissues. 
  

  

 
Brief Hospital Course:
___ year old female admitted to the hospital after a fall while 
carrying groceries. She sustained a head strike without a loss 
of consciousness.  Initially seen at an outside hospital where 
she underwent imaging.  Head cat scan showed a small sub-acute 
to chronic appearing frontal subdural hematomas bilaterally R > 
L and a  
non-displaced right maxillary sinus fracture.  She reportedly 
was having difficulty  
ambulating because of inability to extend her left knee. Imaging 
showed a left patella fracture. She was transferred here for 
further evaluation.

Because of the patient's injuries, she was evaluated by 
Neurosurgery and the Orthopedic service. The patient remained 
neurologically intact and underwent close neurological 
assessment.  Her blood pressure was maintained within the 
requested parameter and no additional cat scan imaging was 
indicated. Non-operative closed treatment of the left patella 
fracture was recommended by the Orthopedic service.  The 
patient's left leg was placed in a brace for comfort and she 
progressed to weight bearing as tolerated. She was placed on a 
full strength daily aspirin for DVT prophalaxsis after clearance 
from Neurosurgery.  In preparation for discharge, the patient 
was evaluated by physical and occupational therapy.  She was 
instructed in the use of a walker and cleared for discharge 
home.  Because of the patient's head strike, she was evaluated 
by occupational therapy and recommendations were made for 
out-patient follow-up with Cognitive Neurology.  Her right 
maxillary sinus fracture would be evaluated by the Plastic 
surgery service as an outpatient.  The patient was provided with 
instructions for sinus precautions.  

At the time of discharge, the patient's pain was controlled with 
oral analgesia.  She was tolerating a regular diet and voiding 
without difficulty. She had resumed her home medications.  Her 
vital signs were stable and she was afebrile. An appointment for 
follow-up was made with the Orthopedic service.  The patient was 
provided with the telephone number of the Plastic surgery 
service.  She was instructed to follow-up with her primary care 
provider ___ ___ for removal of the sutures from her brow. The 
patient was instructed to call the acute care clinic if she has 
any issues or concerns.  

   

    
 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Estradiol 1 mg PO DAILY 
2. Alendronate Sodium 70 mg PO QMON 
3. Amlodipine 5 mg PO DAILY 
4. OxyCODONE SR (OxyconTIN) 60 mg PO QID 
5. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN pain 
6. BuPROPion 150 mg PO TID 
7. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
8. etodolac 500 mg oral BID 
9. Furosemide 40 mg PO DAILY 
10. Levothyroxine Sodium 112 mcg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Sertraline 200 mg PO QPM 

 
Discharge Medications:
1. Rolling Walker
Dx: Left transverse patella fracture 
___: 13 months
Prognosis: Good 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
3. Amlodipine 5 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Levothyroxine Sodium 112 mcg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. OxyCODONE SR (OxyconTIN) 60 mg PO QID 
8. Sertraline 200 mg PO QPM 
9. BuPROPion (Sustained Release) 150 mg PO TID 
10. Docusate Sodium 100 mg PO BID:PRN constipation  
11. Senna 8.6 mg PO BID:PRN constipation  
12. Alendronate Sodium 70 mg PO QMON 
13. etodolac 500 mg ORAL BID 
14. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN pain 
15. Estradiol 1 mg PO DAILY 
16. Acetaminophen 650 mg PO Q6H:PRN pain 
17. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left patellar fracture
SDH
maxillary sinus fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid ( WBAT 
with knee immobilizer)

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the Acute Care Surgery team at ___ after 
suffering a fall.  You were found to have a left patellar (knee) 
fracture, right maxillary sinus fracture, and subdural hematomas 
(bleeding within the head) on the left and right sides of your 
head. You were seen by physical and occupational therapy in 
preparation to discharge. You have sutures by your right eye 
which will need to be removed in 5 days.  Because of your sinus 
fracture, you will need to follow-up with Plastic surgery next 
week for an evaluation.  Please call your doctor or nurse 
practitioner or return to the Emergency Department for any of 
the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please call the ___ clinic if you experience the following:

*severe headache
*visual changes
*difficulty speaking
*drooping side of face
*weakness extremities
*difficulty swallowing
*numbness one side of face

It is recommended that you follow sinus precautions because of 
your maxillary fracture.  

Because of the close relationship between the upper back teeth 
and the sinus, a communication between the sinus and the mouth 
sometimes results from surgery. This condition has occurred in 
your case, which often heals slowly and with difficulty. Certain 
precautions will assist healing and we ask that you faithfully 
follow these instructions:

. Do not smoke for several days.

. Do not use straws for several days.

. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

. Eat only soft foods for several days, always trying to chew on 
the opposite side of your mouth.

 
Followup Instructions:
___